US09120777B2
C) Methyl 5-(benzyloxy)-2-cyclopropyl-2′,4′-difluorobiphenyl-4-carboxylate
A mixture of methyl 5-(benzyloxy)-2-bromo-2′,4′-difluorobiphenyl-4-carboxylate (34.3 g), cyclopropylboronic acid (17.0 g), a 2 M aqueous sodium carbonate solution (119 mL), tris(dibenzylideneacetone)dipalladium(0) (5.07 g), and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (4.87 g) in toluene (150 mL) was stirred overnight at 100 C. The reaction mixture was poured to water, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and passed through a basic silica gel, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (20.3 g)

reactant | methyl 5-(benzyloxy)-2-bromo-2′,4′-difluorobiphenyl-4-carboxylate | 34.3 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)C1=C(C=C(C=C1)F)F)Br)C(=O)OC | C21H15BrF2O3
reactant | cyclopropylboronic acid | 17.0 g | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 2 M, 119 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 4.87 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 5.07 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | Methyl 5-(benzyloxy)-2-cyclopropyl-2′,4′-difluorobiphenyl-4-carboxylate | 20.3 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)C1=C(C=C(C=C1)F)F)C1CC1)C(=O)OC | C24H20F2O3
